US06255333B1
4-Bromoethynyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylpyrazole
To a stirred solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)4-ethynyl-3-methylpyrazole (0.53 g) in acetone (5 ml) was added N-bromosuccinimide (0.295 g) and silver nitrate (0.028 g). Stirring was continued at room temperature for 1 hour. The reaction mixture was evaporated and the residue taken up in ether and washed with water. The organic layer was separated, dried and evaporated. The residue was purified by column chromatography on silica gel (10 g) eluted with hexane and then dichioromethane: hexane (1:1). Combination and evaporation of appropriate fractions, followed by crystailisation from hexane, gave the title compound as a very pale yellow solid m.p. 86-89° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)4-ethynyl-3-methylpyrazole | 0.53 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C#C)C | C13H7Cl2F3N2
reactant | N-bromosuccinimide | 0.295 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
catalyst | silver nitrate | 0.028 g | [N+](=O)([O-])[O-].[Ag+]
product | 4-Bromoethynyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylpyrazole | BrC#CC=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C | C13H6BrCl2F3N2
